data/mechanism_extracts/Synthesis/10.1055_s-0043-1775467.json
{"doi": "10.1055_s-0043-1775467", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical oxidative α-functionalization of ketones via anodic oxidation of silyl enol ethers, enabling C-C bond formation with 1,3-dicarbonyls, α-chlorination, and oxidative [3+2] cycloaddition with styrenes", "mechanism_family": ["radical_anodic", "radical_cation", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the silyl enol ether to a radical cation; a second anodic oxidation of the α-radical intermediate gives an oxocarbenium/oxonium that loses TMS to deliver the α-functionalized ketone. Cathode reduces protons to H2.", "key_intermediates": [{"name": "silyl enol ether radical cation (B)", "smiles": null, "role": "reactive"}, {"name": "α-carbon radical adduct after nucleophilic attack of deprotonated malonate (C)", "smiles": null, "role": "transient"}, {"name": "oxonium/oxocarbenium intermediate (D) after second oxidation", "smiles": null, "role": "transient"}, {"name": "deprotonated dimethyl malonate (nucleophile)", "smiles": "COC(=O)[CH-]C(=O)OC", "role": "reactive"}, {"name": "ketone dimerization side product 18", "smiles": null, "role": "off_pathway"}], "electron_flow": "The anode performs single-electron oxidation of the silyl enol ether (Eox ≈ 1.8 V, lower than malonate at 2.06 V) to give radical cation B; deprotonated malonate attacks the α-carbon to form radical intermediate C, which is oxidized again at the anode to oxonium D; loss of TMS yields the α-functionalized ketone while the cathode evolves H2.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of enol ether 14 vs dimethyl malonate", "smiles": null, "purpose": "redox_probe", "observation": "Enol ether oxidizes at 1.8 V while Me-malonate oxidizes at 2.06 V, supporting initial anodic oxidation of the enol ether"}, {"name": "stoichiometric (1 equiv) Me-malonate experiment", "smiles": "COC(=O)CC(=O)OC", "purpose": "intermediate_trap", "observation": "Formation of ketone dimer side product 18 (confirmed by GCMS), consistent with radical-cation intermediate B reacting with another enol ether"}, {"name": "cyclopropyl ring-opening clock (literature precedent, Moeller/Wright)", "smiles": null, "purpose": "radical_clock", "observation": "Cited prior work establishing enol ether radical cation formation by anodic oxidation"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Free ketone is not observed in the reaction mixture, arguing against a pathway via ketone enolization; instead the silyl enol ether is the entry point. The mechanism is shown to be generalizable to α-chlorination (with LiCl as Cl source) and oxidative [3+2] cycloaddition with styrene, both presumed to proceed through the same radical-cation intermediate B."}
